US04472415
Bromine (0.02 mol) was added dropwise to a stirred solution of 4'-chlorohexanophenone (0.02 mol) in dry diethyl ether (20 ml) at 10°-20° over one hour. The ether was then removed in vacuo from the reaction mixture to leave a pale-yellow liquid which on distillation gave 2-bromo-4'-chlorohexanophenone, b.p. 124°-126°/0.04 mm Hg.

reactant | Bromine | 0.02 mol | BrBr | Br2
reactant | 4'-chlorohexanophenone | 0.02 mol | ClC1=CC=C(C=C1)C(CCCCC)=O | C12H15ClO
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2-bromo-4'-chlorohexanophenone | BrC(C(=O)C1=CC=C(C=C1)Cl)CCCC | C12H14BrClO
